US05688795
A solution of 2-chloro-5-iodo-N,N-dimethylnicotinamide (0.385 g, 1.24 mmol), prepared as in Example 14, in 10 mL of THF was distilled to remove volatile gases. The residual solution was cooled -90° C. and then tert-butyllithium (1.9 mL, 2.48 mmol) was added over 3 to 5 minutes. Iodomethane (0.23 mL, 3.72 mmol) was added and the mixture was allowed to warm to room temperature. The mixture was partitioned between aqueous sodium carbonate (pH 10) and hexanes and the aqueous layer was extracted with ethyl acetate. The extract was washed with brine, dried (Na2 SO4) and concentrated. The residue was purified on silica gel by column chromatography eluting with hexanes/ethyl acetate (3:1) to give 2-chloro-N,N,5-trimethylnicotinamide (0.152 g, 0.78 mmol), m.p. 117°-119° C.

reactant | 2-chloro-5-iodo-N,N-dimethylnicotinamide | 1.24 mmol, 0.385 g | ClC1=C(C(=O)N(C)C)C=C(C=N1)I | C8H8ClIN2O
reactant | tert-butyllithium | 2.48 mmol, 1.9 mL | C(C)(C)(C)[Li]
reactant | Iodomethane | 3.72 mmol, 0.23 mL | IC | CH3I
product | 2-chloro-N,N,5-trimethylnicotinamide | 0.78 mmol, 0.152 g | ClC1=C(C(=O)N(C)C)C=C(C=N1)C | C9H11ClN2O
